US07414060B2
Step 1: 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester:
The Pd catalyzed coupling of 3-Bromo-6-methyl-pyridine-2-carboxylic acid ethyl ester and 5-Amino-pyrimidine (CAS:[591-55-9] (J. Org. Chem., 20, 829 (1955)) was performed in accordance with the general method of Example 78, step 3 to yield the tide compound as a light brown solid, MS (ISP): m/e=259.3 (M+H+).

reactant | 3-Bromo-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1Br)C | C9H10BrNO2
reactant | 5-Amino-pyrimidine | NC=1C=NC=NC1 | C4H5N3
catalyst | Pd | [Pd] | Pd
product | 6-Methyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C | C13H14N4O2
